US09353075B2
Step 2. Preparation of 2-(4-methylphenyl)ethyl [(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate
In a four necked round bottom flask, Et3N (7.3 mL, 52.5 mmol) was added to a solution of (2R,3S)-3-hydroxy-2-({[2-(4-methylphenyl)ethoxy]carbonyl}amino) butanoic acid (4.85 g, 17.5 mmol) in dry CH2Cl2 (190 mL) under argon. After cooling at 0° C., HBTU (9.87 g, 26.2 mmol) was added and the mixture stirred 3 h at 0° C., then 3.5 h at rt. The obtained solid was filtered-off and the solvent removed under vacuum. The crude was purified by typical silica gel column chromatography, eluting with Cy/AcOEt (from 95:5 to 60:40). The resulting white solid (0.658 g) was further triturated with cyclohexane to afford the pure title compound (0.450 g, 10%), as white solid. MS (ESI) m/z: 262.21 [M−H]−. FTIR (cm−1): 3299, 3050, 2966, 2924, 2854, 1827, 1690, 1540, 1355, 1270, 1121, 1095, 1021, 844, 817. 1H-NMR (CDCl3): δ 1.42 (d, 3H); 2.33 (s, 3H); 2.90 (t, 2H); 4.31 (t, 2H); 4.81-4.88 (m, 1H); 5.39-5.46 (m, 2H); 7.08-7.13 (m, 4H).

reactant | Et3N | 52.5 mmol, 7.3 mL | CCN(CC)CC | C6H15N
reactant | (2R,3S)-3-hydroxy-2-({[2-(4-methylphenyl)ethoxy]carbonyl}amino) butanoic acid | 17.5 mmol, 4.85 g | O[C@H]([C@H](C(=O)O)NC(=O)OCCC1=CC=C(C=C1)C)C | C14H19NO5
reactant | HBTU | 26.2 mmol, 9.87 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 190 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-methylphenyl)ethyl [(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate | 0.450 g, 10% | C[C@@H]1OC([C@@H]1NC(OCCC1=CC=C(C=C1)C)=O)=O | C14H17NO4
